US05258382
Preparation of 2-benzyloxycarbonylamino-2-cyanosuccinic acid diethyl ester:
To a sodium ethoxide solution, which was prepared from sodium (2.11 g) and ethanol (400 ml), were added in turn 2-benzyloxycarbonylamino-2-cyanoacetic acid ethyl ester (24.0 g) and ethyl bromoacetate (15.3 g). The resulting mixture was stirred at 25° C. for 3 hours and concentrated under reduced pressure. The residue was diluted with water and extracted with chloroform. The extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to give the title compound (31.6 g, 99%) as a colorless oil.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 2.11 g | [Na] | Na
reactant | 2-benzyloxycarbonylamino-2-cyanoacetic acid ethyl ester | 24.0 g | C(C)OC(C(C#N)NC(=O)OCC1=CC=CC=C1)=O | C13H14N2O4
reactant | ethyl bromoacetate | 15.3 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-benzyloxycarbonylamino-2-cyanosuccinic acid diethyl ester | 31.6 g, 99% | C(C)OC(C(CC(=O)OCC)(C#N)NC(=O)OCC1=CC=CC=C1)=O | C17H20N2O6
